US08895571B2
Step A: tert-butyl[(1S)-2-hydroxy-1-(3-iodobenzyl)ethyl]carbamate
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]-3-(3-iodophenyl)propanoic acid [Aldrich] (4.0 g, 10. mmol) in tetrahydrofuran (10 mL) with stirring was added 1.0 M borane-THF complex in THF (40 mL) dropwise to keep temperature at 0° C. (about 15 min). The reaction mixture was stirred at room temperature for 1 h, then cooled down with ice-bath, quenched with AcOH:MeOH (1:5, 20 mL) and partitioned between saturated aqueous NaHCO3 solution and DCM, dried over sodium sulfate, filtered, and evaporated under reduced pressure. The residue was purified by combi-flash chromatography to give 2.0 g (52% yield) of the desired product. LC-MS found: 278.0 (M−Boc+H)+.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-3-(3-iodophenyl)propanoic acid | 4.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=CC=C1)I | C14H18INO4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | tert-butyl[(1S)-2-hydroxy-1-(3-iodobenzyl)ethyl]carbamate | 2.0 g, 52% yield | C(C)(C)(C)OC(N[C@H](CO)CC1=CC(=CC=C1)I)=O | C14H20INO3
